US03931232
Pyrrolidine (71.0 g.) is added to a solution of 12.6 g. of 3-ethylcyclohexanone in 12.6 ml. of benzene and the mixture is refluxed for eight hours with azeotropic removal of water. The mixture is cooled (ice bath) and 10.1 g. of diethylamine followed by 10.0 g. of acetyl chloride are added dropwise. The resulting mixture is refluxed for two hours then cooled and quenched by addition of 15.0 ml. of concentrated hydrochloric acid. The reaction mixture is refluxed an additional 15 minutes, cooled and diluted with water. The mixture is extracted with ether and the ethereal phase is washed with water, dried (MgSO4) and concentrated in vacuo to give a residue which, upon distillation in vacuo, gives 2-acetyl-5-ethylcyclohexanone.

reactant | Pyrrolidine | 71.0 g | N1CCCC1 | C4H9N
reactant | 3-ethylcyclohexanone | C(C)C1CC(CCC1)=O | C8H14O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-acetyl-5-ethylcyclohexanone | C(C)(=O)C1C(CC(CC1)CC)=O | C10H16O2
